US04469693
A mixture of 1-(2-hydroxyethyl)piperazine (10.0 g) and 2-methoxy-2,4,6-cycloheptatrien-1-one (10.9 g) in methanol (50 ml) was refluxed for 24 hr and evaporated. The residue was chromatographed on silica gel (100 g) using methanol-ethyl acetate (1:4). The eluates were evaporated and crystallized from ethyl acetate-hexane to give 4-(2-oxo-3,5,7-cycloheptatrien-1-yl)-1-piperazine-ethanol (9.2 g): mp 85°-86° C.; ir(CHCl3) 3440, 1616 and 1555 cm-1 ; nmr(CDCl3) δ2.55 (t, 2H), 2.63 (m, 4H), 3.30 (m, 4H), 3.60 (t, 2H) and 6.40-7.65 (m, 5H); and Anal. Calcd for C13H18N2O2 : C, 66.64% H, 7.74% N, 11.96% and Found: C, 66.12% H, 7.83% N, 11.99%.

reactant | 1-(2-hydroxyethyl)piperazine | 10.0 g | OCCN1CCNCC1 | C6H14N2O
reactant | 2-methoxy-2,4,6-cycloheptatrien-1-one | 10.9 g | COC=1C(C=CC=CC1)=O | C8H8O2
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2-oxo-3,5,7-cycloheptatrien-1-yl)-1-piperazine-ethanol | 9.2 g | O=C1C(=CC=CC=C1)N1CCN(CC1)CCO | C13H18N2O2
